US04017621
A mixture of 3-ethyl-5-(2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine (0.3 g), 90% formic acid (0.7 g) and 37% formalin (0.58 ml) was stirred at 90°-100° C for 8 hours. After cooling, 4N hydrochloric acid was added to the reaction mixture. The resulting mixture was evaporated to dryness under reduced pressure. Water was added to the residue, neutralized with aqueous ammonia, and extracted with benzene. The benzene extract was washed with water, dried over anhydrous sodium sulfate and evaporated to afford 3-ethyl-5-(4-methyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine as an oily substance. M.P. 168°-170° C (oxalate).

reactant | 3-ethyl-5-(2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | 0.3 g | C(C)C=1C=CC2=C(N(C3=C(CC2)C=CC=C3)CC3CNCCO3)C1 | C21H26N2O
reactant | formalin | 0.58 ml | C=O | CH2O
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | formic acid | 0.7 g | C(=O)O | CH2O2
product | 3-ethyl-5-(4-methyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | C(C)C=1C=CC2=C(N(C3=C(CC2)C=CC=C3)CC3CN(CCO3)C)C1 | C22H28N2O
